US07074800B1
Using an analogous procedure to that described for Example 124, 4-(2,3-dimethylindol-5-yloxy)-7-hydroxy-6-methoxyquinazoline (120 mg, 0.36 mol), (prepared as described for the starting material in Example 91), was reacted with 3-(ethylsulphonyl)-1-propanol (71 mg, 0.46 mol), (prepared as described for the starting material in Example 124), to give 4-(2,3-dimethylindol-5-yloxy)-7-(3-ethylsulphonylpropoxy)-6-methoxyquinazoline (96 mg, 57%).

reactant | 4-(2,3-dimethylindol-5-yloxy)-7-hydroxy-6-methoxyquinazoline | 0.36 mol, 120 mg | CC=1NC2=CC=C(C=C2C1C)OC1=NC=NC2=CC(=C(C=C12)OC)O | C19H17N3O3
reactant | 3-(ethylsulphonyl)-1-propanol | 0.46 mol, 71 mg | C(C)S(=O)(=O)CCCO | C5H12O3S
product | 4-(2,3-dimethylindol-5-yloxy)-7-(3-ethylsulphonylpropoxy)-6-methoxyquinazoline | 96 mg, 57% | CC=1NC2=CC=C(C=C2C1C)OC1=NC=NC2=CC(=C(C=C12)OC)OCCCS(=O)(=O)CC | C24H27N3O5S
